US07977481B2
Step 2: Synthesis of N-[5-(2-Chloro-pyrimdin-4-yl)-thiophen-2-ylmethyl]-benzamide
A solution of N-[5-(2-Chloro-pyrimdin-4-yl)-thiophen-2-ylmethyl]-N-(4-methoxybenzyl)-benzamide (25 mg, 0.055 mmol) in 0.25 mL CH2Cl2 was treated with trifluoroacetic acid (0.25 mL) as co-solvent and PS-thiophenol resin (3 eq.) at 40° C. for 15 h. The material was filtered and concentrated to a yellow solid (16 mg, 88%). The crude material was used in the next step.

reactant | N-[5-(2-Chloro-pyrimdin-4-yl)-thiophen-2-ylmethyl]-N-(4-methoxybenzyl)-benzamide | 0.055 mmol, 25 mg | ClC1=NC=CC(=N1)C1=CC=C(S1)CN(C(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC | C24H20ClN3O2S
reactant | trifluoroacetic acid | 0.25 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | thiophenol | 3 eq. | C1(=CC=CC=C1)S | C6H6S
solvent | CH2Cl2 | 0.25 mL | C(Cl)Cl | CH2Cl2
product | N-[5-(2-Chloro-pyrimdin-4-yl)-thiophen-2-ylmethyl]-benzamide | ClC1=NC=CC(=N1)C1=CC=C(S1)CNC(C1=CC=CC=C1)=O | C16H12ClN3OS
